US04921962
Di-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate
A mixture of 15.0 g (31.2 mmol) of di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate, 0.7 g of molybdenum hexacarbonyl and 115 ml of n-octane is heated to 115° C. To this mixture is added 21.9 g (219 mmol) of 90% aqueous tert-butyl hydroperoxide over a 30-minute period. The reaction mixture is maintained at reflux during the addition and water is collected in a Dean-Stark trap. The red reaction mixture is heated at reflux for 6 hours after the addition is complete. The orange mixture is cooled to 60° C., treated with 3.5 g (35 mmol) of fresh 90% aqueous tert-butyl hydroperoxide and 20 ml of n-octane, and heated at reflux for an additional hour to discharge the color. The reaction mixture is filtered to remove solids, and then diluted with 100 ml of ethyl acetate and washed with a solution of 10 g of sodium sulfite in 200 ml of water. The aqueous wash is extracted with ethyl acetate and the combined organic solutions are washed once with water and then evaporated. The crude yellow liquid residue is purified by passing it through 220 g of silica gel with 100:7 heptane:ethyl acetate as eluent to afford 15.5 g (67% yield) of the title compound as a colorless oil. The oil has the same LC retention time as the compound prepared in Example 31.

reactant | di-(2,2,6,6-tetramethylpiperidin-4-yl) sebacate | 31.2 mmol, 15.0 g | C(CCCCCCCCC(=O)OC1CC(NC(C1)(C)C)(C)C)(=O)OC1CC(NC(C1)(C)C)(C)C | C28H52N2O4
reactant | n-octane | 115 ml | CCCCCCCC | C8H18
reactant | tert-butyl hydroperoxide | 219 mmol, 21.9 g | C(C)(C)(C)OO | C4H10O2
reactant | water | O | H2O
reactant | n-octane | 20 ml | CCCCCCCC | C8H18
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | molybdenum hexacarbonyl | 0.7 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | Di-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Sebacate | 15.5 g, 67% yield | C(CCCCCCCCC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C44H84N2O6
